US04603205
1,2,2,6,6-pentamethylpiperidin-4-yl 2,4,5-trimethylfuran-3-carboxylate
If methyl 2,4,5-trimethylfuran-3-carboxylate and 4-hydroxy-1,2,2,6,6-pentamethylpiperidine are reacted by the method given in Example 1, the product obtained is a virtually colorless oil of boiling point 138°-140° C./0.4 mm; this solidifies to a solid of melting point 55°-56° C.

reactant | methyl 2,4,5-trimethylfuran-3-carboxylate | CC=1OC(=C(C1C(=O)OC)C)C | C9H12O3
reactant | 4-hydroxy-1,2,2,6,6-pentamethylpiperidine | OC1CC(N(C(C1)(C)C)C)(C)C | C10H21NO
product | 1,2,2,6,6-pentamethylpiperidin-4-yl 2,4,5-trimethylfuran-3-carboxylate | CC=1OC(=C(C1C(=O)OC1CC(N(C(C1)(C)C)C)(C)C)C)C | C18H29NO3
